US07396943B2
Part C: 5-(4-Formylphenoxy)thiophene-2-carboxamide
Dissolve 5-(4-formylphenoxy)thiophene-2-carbonitrile (0.818 g, 3.57 mmol) in DMSO (18 mL) in a round bottom flask, then add K2CO3 (0.247 g, 1.78 mmol). Cool the reaction flask in a water bath and add 30% H2O, (0.81 mL, 7.14 mmol) solution. After one hour, add water (25 mL). Filter the resulting precipitate and wash the filter cake with water (25 mL). Collect the filter cake as the title compound: HRMS calcd for C12H10NO3S 248.0381 (M+H)+, found 248.0396, time 0.36 min; HPLC [YMC-Pro pack C-18 (150×4.6 mm, S-5 microm), 0.05% TFA/acetonitrile in 0.05% TFA/water at 1.0 mL/min, 10-20% over 5 min, 20-95% over 18], tR=13.0 min, 100% purity.

reactant | 5-(4-formylphenoxy)thiophene-2-carbonitrile | 3.57 mmol, 0.818 g | C(=O)C1=CC=C(OC2=CC=C(S2)C#N)C=C1 | C12H7NO2S
reactant | K2CO3 | 1.78 mmol, 0.247 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 7.14 mmol, 0.81 mL | O | H2O
reactant | water | 25 mL | O | H2O
solvent | DMSO | 18 mL | CS(=O)C | C2H6OS
product | 5-(4-Formylphenoxy)thiophene-2-carboxamide | C(=O)C1=CC=C(OC2=CC=C(S2)C(=O)N)C=C1 | C12H9NO3S
